US04455422
1.5 Gram of 6-{1-oxo-4-[4-(4-nitrophenyl)-piperazinyl]-butyl}-3,4-dihydrocarbostyril and 0.3 g of 5%-palladium-carbon were dispersed in 150 ml of ethanol and catalytically reduced under 2 kg/cm2 of hydrogen gas for 5 hours. The reaction mixture was filtered and the mother liquor was concentrated under a reduced pressure. The residue thus obtained was recrystallized from methanol to obtain 0.7 g of 6-{1-hydroxy-4-[4-(4-aminophenyl)-1-piperazinyl]butyl}- 3,4-dihydrocarbostyril in brown powdery crystals.

reactant | 6-{1-oxo-4-[4-(4-nitrophenyl)-piperazinyl]-butyl}-3,4-dihydrocarbostyril | O=C(CCCN1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])C=1C=C2CCC(NC2=CC1)=O | C23H26N4O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 150 ml | C(C)O | C2H6O
catalyst | palladium-carbon | [C].[Pd]
product | 6-{1-hydroxy-4-[4-(4-aminophenyl)-1-piperazinyl]butyl}- 3,4-dihydrocarbostyril | 0.7 g | OC(CCCN1CCN(CC1)C1=CC=C(C=C1)N)C=1C=C2CCC(NC2=CC1)=O | C23H30N4O2
